US06156756
a) 4,6-Dihydroxy-2-(propylthio)pyrimidine
Propyl iodide (136 ml) was added to a suspension of 4,6-dihydroxy-2-mercaptopyrimidine (200 g) in water (800 ml), containing sodium hydroxide (55.6 g). The reaction mixture was stirred for 2 weeks then concentrated to half volume, 2N hydrochloric acid added and the product isolated by filtration (167 g).

reactant | Propyl iodide | 136 ml | C(CC)I | C3H7I
reactant | 4,6-dihydroxy-2-mercaptopyrimidine | 200 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | sodium hydroxide | 55.6 g | [OH-].[Na+]
solvent | water | 800 ml | O | H2O
product | 4,6-Dihydroxy-2-(propylthio)pyrimidine | OC1=NC(=NC(=C1)O)SCCC | C7H10N2O2S
